US07524252B2
15 g (0.064 mol) of 3,5-di-tert-butyl salicylaldehyde was dissolved in 500 ml of methanol, and then 1.92 g (0.032 mol) of ethylenediamine was added, and stirred at room temperature for 2 hours. The reaction product thus obtained was filtrated to give 13.3 g (0.0266 mol) of N,N′-bis(3,5-di-tert-butylsalicylidene)ethylenediamine. Next, in a solution obtained by dissolving the above compound in 1000 g of methanol, Co(OAc)2.4H2O was added in an amount of 8.753 g (0.0266 mol), followed by reflux for two hours, and the product thus obtained was subjected to filtration to give a metallosalen complex 1 (N,N′-bis(3,5-di-tert-butylsalicylidene)ethylenediaminato cobalt(II)). The yield was 70%.

reactant | 3,5-di-tert-butyl salicylaldehyde | 0.064 mol, 15 g | C(C)(C)(C)C1=C(C(C=O)=CC(=C1)C(C)(C)C)O | C15H22O2
reactant | ethylenediamine | 0.032 mol, 1.92 g | C(CN)N | C2H8N2
reactant | methanol | 500 ml | CO | CH4O
product | N,N′-bis(3,5-di-tert-butylsalicylidene)ethylenediamine | 0.0266 mol, 13.3 g | C(C)(C)(C)C1=C(C(C=NCCN=CC=2C(O)=C(C=C(C2)C(C)(C)C)C(C)(C)C)=CC(=C1)C(C)(C)C)O | C32H48N2O2
